US07923450B2
c) {8-(4-Chloro-phenyl)-2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-acetonitrile
The title compound was prepared from [1-(4-chloro-phenyl)-3-[1-dimethylamino-methylidene]-2-oxo-cyclohexyl]-acetonitrile (118 mg, 0.39 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (124 mg, 0.33 mmol) using in analogous manner the procedure described in example 45b). Obtained as an off-white solid (114 mg, 71%). MS ISP (m/e): 485.5 [(M+H)+]. mp 156-158° C.

reactant | [1-(4-chloro-phenyl)-3-[1-dimethylamino-methylidene]-2-oxo-cyclohexyl]-acetonitrile | 0.39 mmol, 118 mg | ClC1=CC=C(C=C1)C1(C(C(CCC1)=CN(C)C)=O)CC#N | C17H19ClN2O
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.33 mmol, 124 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | {8-(4-Chloro-phenyl)-2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-acetonitrile | ClC1=CC=C(C=C1)C1(CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)CC#N | C27H25ClN6O
